US04159278
N,N'-(m-phenylene)dioxamic acid
Diethyl N,N'-(m-phenylene)dioxamate (1.0 gram) is stirred in 1.0N aqueous sodium hydroxide for 0.5 hour. The solution is diluted with water (100 ml.) and the pH adjusted to pH 3 with concentrated hydrochloric acid. The resulting precipitate is collected and recrystallized from ethanol (0.46 grams, M. P. 240° C.).

reactant | Diethyl N,N'-(m-phenylene)dioxamate | 1.0 gram | C1(=CC(=CC=C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C14H16N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | N,N'-(m-phenylene)dioxamic acid | C1(=CC(=CC=C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C10H8N2O6
